US06825383B1
Anisole (1 mmol) was treated with sodium chloride (1.2 mmol) in acetonitrile: water (2:1, 6 ml). 20% Sulfuric acid (5 ml) and sodium periodate (20 mol %) was added to reaction mixture. The mixture was heated at 80° C. under inert atmosphere for 4 h. The product was purified by column chromatography to give 4-chloroanosole (25%) and 2-chloroanisole (2%).

reactant | Anisole | 1 mmol | C1(=CC=CC=C1)OC | C7H8O
reactant | sodium chloride | 1.2 mmol | [Cl-].[Na+]
reactant | Sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile water | 6 ml | C(C)#N.O
product | 2-chloroanisole | 2% | ClC1=C(C=CC=C1)OC | C7H7ClO
